US06025345
Diethylchlorophosphite (15.6 g,0.1 mol) in 100 mL of dry diethyl ether was cooled to 5° C. under an atmosphere of nitrogen. Phenethylmagnesium chloride (100 mL, 0.1 mol, 1.0 M in THF) was added dropwise over 2 hours while maintaining a temperature between 0-10° C. A thick white slurry formed and stirred at room temperature overnight. The mixture was filtered under a nitrogen atmosphere and the filtrate evaporated under reduced pressure to give a clear and colorless liquid. The liquid was stirred as 15 mL of water was added followed by 0.5 mL of concentrated hydrlochloric acid. An exothermic reaction was observed and stirring continued for 15 minutes followed by extraction with ethyl acetate. The organics were combined, washed with brine, dried (MgSO4) and evaporated. The clear liquid was brought up in sodium hydroxide (40 mL, 2.0 M NaOH), stirred for 1 hour and washed once with diethyl ether. The aqueous layer was acidified to pH 1.0 with concentrated hydrochloric acid and extracted with ethyl acetate. The organics were combined, dried (MgSO4) and evaporated to give phenethylphosphinic acid (1,R=CH2CH2Ph, R1=H)(9.8 g, 58%) as a clear light yellow oil.

reactant | Diethylchlorophosphite | 0.1 mol, 15.6 g | C(C)OP(OCC)Cl | C4H10ClO2P
reactant | Phenethylmagnesium chloride | 0.1 mol, 1.0 M, 100 mL | C(CC1=CC=CC=C1)[Mg]Cl
reactant | water | 15 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | phenethylphosphinic acid | 9.8 g, 58% | C(CC1=CC=CC=C1)P(O)=O | C8H11O2P
